US09023847B2
85. 3-Hydroxy-2-{[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-amino-3-hydroxy-propionic acid methyl ester instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 361 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.60 (1H, br. s.) 10.09 (1H, s) 8.13 (1H, d, J=7.57 Hz) 8.03 (1H, d, J=5.56 Hz) 7.85 (1H, d, J=5.42 Hz) 7.46 (1H, d, J=5.42 Hz) 7.32 (1H, dd, J=3.22, 2.64 Hz) 6.80 (1H, d, J=5.56 Hz) 6.43 (1H, dd, J=3.39, 1.78 Hz) 5.06 (1H, t, J=6.05 Hz) 4.56 (1H, dt, J=7.53, 5.02 Hz) 3.72-3.83 (2H, m) 3.63 (3H, s)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-amino-3-hydroxy-propionic acid methyl ester | COC(C(CO)N)=O | C4H9NO3
product | 3-Hydroxy-2-{[3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-propionic acid methyl ester | COC(C(CO)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)=O | C16H16N4O4S
